US08877742B2
8-bromo-1-methyl-2,3,4,5-tetrahydro-1H-benzo[b]azepine
To a solution of 8-bromo-2,3,4,5-tetrahydro-1H-benzo[b]azepine (D50) (395 mg, 1.747 mmol) in 25 mL of MeOH and acetic acid (1 mL, 17.47 mmol) was added formaldehyde (37% aq solution) (0.780 mL, 10.48 mmol) and the reaction mixture stirred for 30 minutes followed by the addition of a solution of sodium cyanoborohydride (878 mg, 13.98 mmol) in MeOH (10 mL). The reaction mixture was stirred at RT for 1 hour, then basified by the slow addition of sodium hydrogen carbonate aqueous solution (ca. 50 mL). The aqueous layer was extracted with DCM (3×50 mL), the organic layers were combined, passed through a hydrophobic frit and concentrated. The residue was purified by column chromatography on silica gel, eluting with a gradient of 0-5% ethyl acetate in cyclohexane to afford the title compound (357 mg). LCMS (A): m/z (M+H)+ 240/242, C11H14BrN requires 239/241 (acidic).

reactant | 8-bromo-2,3,4,5-tetrahydro-1H-benzo[b]azepine | 1.747 mmol, 395 mg | BrC=1C=CC2=C(NCCCC2)C1 | C10H12BrN
reactant | acetic acid | 17.47 mmol, 1 mL | C(C)(=O)O | C2H4O2
reactant | formaldehyde | 10.48 mmol, 0.780 mL | C=O | CH2O
reactant | sodium cyanoborohydride | 13.98 mmol, 878 mg | C(#N)[BH3-].[Na+]
reactant | sodium hydrogen carbonate | ca. 50 mL | C(O)([O-])=O.[Na+]
solvent | MeOH | 25 mL | CO | CH4O
solvent | MeOH | 10 mL | CO | CH4O
product | 8-bromo-1-methyl-2,3,4,5-tetrahydro-1H-benzo[b]azepine | 357 mg | BrC=1C=CC2=C(N(CCCC2)C)C1 | C11H14BrN
